US05484942
A solution of 1.12 g of 3-chloroperoxybenzoic acid (at 85%) in 25 cm3 of dry dichloromethane is added to a solution of 1.47 g of 3,4-dihydro-4,4-diphenyl-2H-thiapyran 1-oxide in 15 cm3 of dry dichloromethane. After stirring for 20 hours at 20° C. the reaction mixture is washed with 50 cm3 of a 10% aqueous solution of sodium thiosulphate and then with 50 cm3 of a saturated aqueous solution of sodium hydrogen carbonate. The organic phase is dried over magnesium sulphate and concentrated to dryness under reduced pressure (2.7 kPa). The crystalline residue is washed with ethyl ether, drained and dried under reduced pressure (2.7 kPa). 1.3 g of 3,4-dihydro-4,4-diphenyl2H-thiapyran 1,1-dioxide are obtained in the form of white crystals; melting point 166° C.

reactant | 3-chloroperoxybenzoic acid | 1.12 g | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
reactant | 3,4-dihydro-4,4-diphenyl-2H-thiapyran 1-oxide | 1.47 g | C1(=CC=CC=C1)C1(CCS(C=C1)=O)C1=CC=CC=C1 | C17H16OS
solvent | dichloromethane | 25 cm3 | ClCCl | CH2Cl2
solvent | dichloromethane | 15 cm3 | ClCCl | CH2Cl2
product | 3,4-dihydro-4,4-diphenyl2H-thiapyran 1,1-dioxide | 1.3 g | C1(=CC=CC=C1)C1(CCS(C=C1)(=O)=O)C1=CC=CC=C1 | C17H16O2S
